US04772600
2-(4-Nitrophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of crude 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.0 g, 0.0101 mole), 1,1'-carbonyldiimidazole (1.63 g, 0.0101 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for three hours with nitrogen bubbling through it and then refluxed under nitrogen overnight. The mixture was cooled to room temperature and a solution of dipropylamine (3.06 g, 0.0302 mole) in tetrahydrofuran (5 ml) was added. The suspension was refluxed over the weekend under nitrogen. The solvents were removed under reduced pressure and the solid residue was triturated in water (100 ml) overnight. The solid was collected by filtration, rinsed twice with water, twice with 5% potassium hydroxide solution and then twice more with water. The solid was dissolved in hot isopropyl alcohol, filtered while hot, and cooled to room temperature to precipitate a solid. Water was added and the solid was collected by filtration, rinsed with water and dried under high vacuum at 70° C. to give 1.23 g (32%) of title compound, mp. 205°-208° C.

reactant | 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0101 mole, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10N4O4
reactant | 1,1'-carbonyldiimidazole | 0.0101 mole, 1.63 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.0302 mole, 3.06 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Nitrophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.23 g, 32% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C20H23N5O3
